US07973039B2
Intermediate A4: 4-(diethylamino)-2-butynal
To a solution of 4-diethylamino-2-butyn-1-ol (1.00 g, 7.08 mmol) in anhydrous DCM (60 mL) was added MnO2 (20 g, 230 mmol) portion wise on one hour. The resulting mixture was stirred at rt for two additional hours, then filtered on a bed of Celite. The filtrates were evaporated under reduced pressure to give 352 mg (36%) the title compound as an orange oil (352 mg, 36% yield). 1H NMR (CDCl3) δ: 9.22 (s, 1H), 3.65 (s, 2H), 2.58 (q, J=7.2 Hz, 4H), 1.08 (t, J=7.2 Hz, 6H).

reactant | 4-diethylamino-2-butyn-1-ol | 7.08 mmol, 1.00 g | C(C)N(CC#CCO)CC | C8H15NO
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 230 mmol, 20 g | O=[Mn]=O
product | 4-(diethylamino)-2-butynal | 352 mg, 36% yield | C(C)N(CC#CC=O)CC | C8H13NO
